US07250519B2
Synthesis of 4,4′-bis(4-tert-butylphenylphenylamino)biphenyl
2 l of xylol were degassed under nitrogen in a 4 l nitrogen flask. To this was added 86.5 g (0.90 mol) of sodium-tert-butanolate after which 85.0 ml (0.45 mol) of chloro-di-tert-butylphosphine were added over a period of 5 minutes with effective stirring. 10.0 kg (29.7 mol) of N,N′-diphenyl benzidine in 170 l of xylol were placed in a 500 l vessel with an anchor stirrer. While effective stirring was maintained the flask was evacuated three times to an internal pressure of about 50 mbar and then flooded with dry nitrogen (99.998%). To the solution rendered inert in this manner was added 8.7 kg (90.5 mol) of solid sodium-tert-butanolate and the contents of the flask stirred for 30 minutes at room temperature. Then, the mixture of chloro-tert-butylphosphine and sodium-tert-butanolate in 2 l of xylol was added and the whole stirred for 15 minutes. Then 33.5 g (0.15 mol) of palladium (II)acetate was added, this being followed by 15 minutes stirring. Finally, 13.9 kg (65.2 mol) of 1-bromo-4-tert-butylbenzol were added. The reaction mixture was heated, with effective stirring, for three hours under reflux. After cooling to 60° C., 75 l of deionised water were added and stirring continued for at least a further 3 hours. The precipitated solid material sucked out by means of a pressure filter and then stirred three times with 75 l lots of deionised water and twice with 75 l lots of ethanol. After drying with nitrogen the filter cake was dried under reduced pressure in a drying cupboard.

reactant | sodium tert-butanolate | 0.90 mol, 86.5 g | [Na].C(C)(C)(C)[O-]
reactant | chloro-di-tert-butylphosphine | 0.45 mol, 85.0 ml | ClP(C(C)(C)C)C(C)(C)C | C8H18ClP
reactant | N,N′-diphenyl benzidine | 29.7 mol, 10.0 kg | C1(=CC=CC=C1)NC1=CC=C(C=C1)C1=CC=C(NC2=CC=CC=C2)C=C1 | C24H20N2
reactant | chloro-tert-butylphosphine | ClPC(C)(C)C | C4H10ClP
reactant | 1-bromo-4-tert-butylbenzol | 65.2 mol, 13.9 kg | BrC1=CC=C(C=C1)C(C)(C)C | C10H13Br
solvent | xylol | 170 l | C=1(C(=CC=CC1)C)C | C8H10
solvent | xylol | 2 l | C=1(C(=CC=CC1)C)C | C8H10
catalyst | palladium (II)acetate | 0.15 mol, 33.5 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | water | 75 l | O | H2O
product | 4,4′-bis(4-tert-butylphenylphenylamino)biphenyl | C(C)(C)(C)C1=CC=C(C=C1)N(C1=CC=C(C=C1)C1=CC=C(C=C1)N(C1=CC=CC=C1)C1=CC=C(C=C1)C(C)(C)C)C1=CC=CC=C1 | C44H44N2
